US08071592B2
(e) 6-({[4-(Methyloxy)phenyl]methyl}oxy)pyrido[2,3-b]pyrazin-3(4H)-one
Ethyl N-[2-amino-6-({[4-(methyloxy)phenyl]methyl}oxy)-3-pyridinyl]glycinate (5 g, 15.1 mmol) was dissolved in toluene (500 mL) and heated at reflux for 2.5 days, the reaction was cooled to rt and manganese dioxide (2.4 g, 27.5 mmol) was added. After stirring for 5 h at room temperature 0.8 g of manganese dioxide were added and the reaction was stirred at room temperature overnight. The reaction was filtered through celite and the celite was washed with plenty of 20% methanol/DCM. The solvent were removed and the solid was triturated with diethyl ether, filtered off and washed with more diethyl ether to afford the title compound as a black solid (2.1 g, 50%).

reactant | Ethyl N-[2-amino-6-({[4-(methyloxy)phenyl]methyl}oxy)-3-pyridinyl]glycinate | 15.1 mmol, 5 g | NC1=NC(=CC=C1NCC(=O)OCC)OCC1=CC=C(C=C1)OC | C17H21N3O4
solvent | toluene | 500 mL | C1(=CC=CC=C1)C | C7H8
catalyst | manganese dioxide | 27.5 mmol, 2.4 g | [O-2].[O-2].[Mn+4]
catalyst | manganese dioxide | 0.8 g | [O-2].[O-2].[Mn+4]
product | 6-({[4-(Methyloxy)phenyl]methyl}oxy)pyrido[2,3-b]pyrazin-3(4H)-one | 2.1 g, 50% | COC1=CC=C(C=C1)COC=1C=CC2=C(NC(C=N2)=O)N1 | C15H13N3O3
